US09382356B2
(ii) Synthesis of dibenzylmethylene(cyclopentadienyl)(2,7-di[2-naphthyl]-3,6-ditert-butylfluorene)
Under a nitrogen atmosphere, 80 mL of dehydrated tert-butylmethylether was added to 0.82 g (1.54 mmol) of 2,7-di(2-naphthyl)-3,6-ditert-butyl-fluorene, and the mixture was stirred. This solution was cooled in an ice bath, and 1.10 mL (1.76 mmol) of a 1.60 mol/L hexane solution of n-butyllithium was added. The mixture was stirred at room temperature for 22 hours. To the yellow suspension thus obtained, 0.44 g (1.70 mmol) of 6,6-dibenzofulvene synthesized in Synthesis Example 1-1 (iii) was added, and the mixture was heated to reflux for 19 hours. Subsequently, 30 mL of 1N hydrochloric acid was added to the light orange-brown solution obtained to terminate the reaction. Then, 100 mL of diethylether was added to perform a liquid-liquid phase separation, and the soluble fraction was extracted. This organic layer was washed two times with a saturated aqueous solution of sodium hydrogen carbonate, two times with water, and once with saturated brine, and then dried over magnesium sulfate. The solvent was distilled off, and the residue was purified by column chromatography to obtain a target product as a pale yellow solid (yield 0.64 g (53%)). The target product was identified by 1H-NMR and FD-MS spectroscopy.

reactant | tert-butylmethylether | 80 mL | C(C)(C)(C)OC | C5H12O
reactant | 2,7-di(2-naphthyl)-3,6-ditert-butyl-fluorene | 1.54 mmol, 0.82 g | C1=C(C=CC2=CC=CC=C12)C1=CC=2CC3=CC(=C(C=C3C2C=C1C(C)(C)C)C(C)(C)C)C1=CC2=CC=CC=C2C=C1 | C41H38
reactant | n-butyllithium | C(CCC)[Li]
reactant | hydrochloric acid | 1N, 30 mL | Cl | ClH
solvent | diethylether | 100 mL | C(C)OCC | C4H10O
solvent | hexane | 1.60 mol/L | CCCCCC | C6H14
product | dibenzylmethylene(cyclopentadienyl)(2,7-di[2-naphthyl]-3,6-ditert-butylfluorene) | yield 0.64 g, 53% | C(C1=CC=CC=C1)C(CC1=CC=CC=C1)=C1C(=C(C(=C2C=C3C=C(C(=CC3=C12)C(C)(C)C)C1=CC2=CC=CC=C2C=C1)C1C=CC=C1)C1=CC2=CC=CC=C2C=C1)C(C)(C)C | C61H54
